2114-05-20 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued fever, cultured
   - Weaned off of phenylephrine
   - Continued respiratory distress ~ 4am improved with Ativan
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2114-5-19**] 09:00 PM
   Fluconazole - [**2114-5-19**] 09:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2114-5-19**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2114-5-19**] 08:44 PM
   Lorazepam (Ativan) - [**2114-5-20**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-20**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 117 (94 - 126) bpm
   BP: 100/53(68) {85/45(60) - 113/66(79)} mmHg
   RR: 34 (22 - 52) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 5 (2 - 10)mmHg
   Total In:
                                                                  9,608 mL
                                                                  1,050 mL
   PO:
   TF:
   IVF:
                                                                  9,608 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                  1,948 mL
                                                                    607 mL
   Urine:
                                                                  1,948 mL
                                                                    607 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,660 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 94%
   ABG: 7.41/25/76.[**Numeric Identifier 126**]/26/-6
   PaO2 / FiO2: 80
   Physical Examination
   Gen: Resting comfortably with face mask in place, anxious when awake
   HEENT: No JVD
   Cards: S1 & S2 regular without murmur appreciated
   Pulm: High flow mask in place. Shallow rapid breathing, no accessory
   muscle use.  Decrease bibasilar breath sounds.
   Abd: Tender to palpation, no BS appreciated
   Ext: 2+ DP, no edema
   Skin:  No sign of significant breakdown
   Neurologic: AAOx3, Anxious
   Labs / Radiology
   83 K/uL
   9.2 g/dL
   115 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.7 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   26.2 %
   2.3 K/uL
        [image002.jpg]
                             [**2114-5-19**]  09:54 AM
                             [**2114-5-19**]  03:25 PM
                             [**2114-5-19**]  03:37 PM
                             [**2114-5-19**]  07:16 PM
                             [**2114-5-19**]  07:49 PM
                             [**2114-5-19**]  08:15 PM
                             [**2114-5-19**]  08:37 PM
                             [**2114-5-19**]  09:37 PM
                             [**2114-5-20**]  03:26 AM
                             [**2114-5-20**]  03:56 AM
   WBC
   2.3
   Hct
   25.4
   25.8
   26.2
   Plt
   83
   Cr
   1.0
   1.0
   1.0
   TCO2
   27
   31
   18
   18
   16
   Glucose
   110
   108
   115
   Other labs: Differential-Neuts:36.0 %, Band:22.0 %, Lymph:14.0 %,
   Mono:15.0 %, Eos:0.0 %, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ALT: 42 AP: 32 Tbili: 0.6 Alb: 2.1
   AST: 58 LDH: 159
   N:36 Band:22 L:14 M:15 E:0 Bas:0 Atyps: 3 Metas: 5 Myelos: 5
   PT: 15.1  PTT: 47.0  INR: 1.3
   Lactate:1.1
   Imaging: CXR: R effusion changed into ? opacity
   Microbiology: [**5-18**]: GNRs, not speciated
   [**Date range (1) 7890**]: NGTD
   Assessment and Plan
   Mr. [**Known lastname 7870**] is a 62 year-old man ileocecectomy for cecal sessile polyp
   complicated by thermal injury, s/p ex-lap and repair, with continued
   fever, tachycardia, tachypnea and hypoxia.
   #) Tachypnea/oxygen requirement:  Continued overnight with new fevers
   and known abdominal process. CXR revealing effusions with possible
   consolidation.  P/F ratio ~ 80, consistent with ARDS from
   sepsis/surgical stress. Also a likely contribution of restrictive
   physiology from pain/distention in the abdomen given low lung volumes.
   - Monitor ABG
   - Supplemental O2 by facemask as needed
   - Low threshold for intubation if needed to maintain oxygenation
   #) GNR bacteremia: The patient is continually febrile overnight despite
   Vanc/Zosyn with known GNR in blood without speciation.  He also
   continues to be tachycardic, but his hypotension has resolved.  Concern
   for pseudomonas, also anerobes.
   - Consider adding Ceftaz for double pseuodmonas coverage, Flagyl for
   further anaerobe coverage
   #) Hypotension:  Currently weaned off of levophed, not requiring
   significant fluids today.  Will continue to monitor via arterial line
   and rescuscitate as needed.
   #) s/p ileocectomy and revision:
   - continue dilaudid PCA
   - monitor Hct for signs of bleeding
   #) Anxiety:  on alprazolam as an outpatient and on surgical service.
   Currently strictly NPO.
   - lorazepam IV PRN
   ICU Care
   Nutrition: Ice Chips
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-5-19**] 04:39 AM
   Multi Lumen - [**2114-5-19**] 04:40 AM
   18 Gauge - [**2114-5-19**] 04:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Post round addendum:
   Will add Flagyl and consider Gentamicin.
   DIC work up giving falling platelets.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4777**], MD
   on:[**2114-5-20**] 10:24 ------

2114-05-21 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - night before (became delirious from ativan , gave zyprexa instead,
   surgeon wanted xanax instead)
   - [**2055-11-20**]% face mask
   - complianed of anxiety
   - 40 IV lasix per surgery
   - getting 1unit PRBC from overnight
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2114-5-20**] 08:24 PM
   Fluconazole - [**2114-5-20**] 11:00 PM
   Ciprofloxacin - [**2114-5-21**] 12:07 AM
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-21**] 03:37 AM
   Metronidazole - [**2114-5-21**] 04:03 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2114-5-20**] 07:17 PM
   Heparin Sodium (Prophylaxis) - [**2114-5-20**] 08:00 PM
   Furosemide (Lasix) - [**2114-5-21**] 06:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 112 (102 - 125) bpm
   BP: 138/67(88) {92/49(64) - 142/67(89)} mmHg
   RR: 30 (21 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 14 (2 - 14)mmHg
   Total In:
                                                                  3,756 mL
                                                                  1,194 mL
   PO:
   TF:
   IVF:
                                                                  3,756 mL
                                                                  1,194 mL
   Blood products:
   Total out:
                                                                  2,072 mL
                                                                  1,868 mL
   Urine:
                                                                  2,072 mL
                                                                  1,868 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,684 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: 7.39/35/81.[**Numeric Identifier 508**]/29/-2
   PaO2 / FiO2: 137
   Physical Examination
   Gen: Resting comfortably with face mask in place, anxious when awake
   HEENT: No JVD
   Cards: S1 & S2 regular without murmur appreciated
   Pulm: High flow mask in place. Shallow rapid breathing, no accessory
   muscle use.  Shallow breaths
   Abd: Tender to palpation, hypoactive bowel sounds
   Ext: 2+ DP, no edema
   Skin:  No sign of significant breakdown
   Neurologic: AAOx3, Anxious
   Labs / Radiology
   94 K/uL
   7.8 g/dL
   117 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   16 mg/dL
   106 mEq/L
   139 mEq/L
   22.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2114-5-19**]  08:37 PM
                             [**2114-5-19**]  09:37 PM
                             [**2114-5-20**]  03:26 AM
                             [**2114-5-20**]  03:56 AM
                             [**2114-5-20**]  02:08 PM
                             [**2114-5-20**]  02:24 PM
                             [**2114-5-20**]  05:36 PM
                             [**2114-5-20**]  09:34 PM
                             [**2114-5-21**]  03:51 AM
                             [**2114-5-21**]  06:01 AM
   WBC
   2.3
   3.5
   4.7
   Hct
   25.8
   26.2
   24.8
   22.1
   Plt
   83
   96
   94
   Cr
   1.0
   0.9
   TCO2
   18
   16
   30
   31
   22
   22
   Glucose
   115
   117
   Other labs: PT / PTT / INR:12.3/35.4/1.0, ALT / AST:31/51, Alk Phos / T
   Bili:37/0.6, Differential-Neuts:91.0 %, Band:6.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:1104 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:185 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.2
   mg/dL
   Mr. [**Known lastname 7870**] is a 62 year-old man ileocecectomy for cecal sessile polyp
   complicated by thermal injury, s/p ex-lap and repair, with continued
   fever, tachycardia, tachypnea and hypoxia.
   #) Tachypnea/oxygen requirement:  Continued overnight with new fevers
   and known abdominal process. CXR revealing effusions with possible
   consolidation.  P/F ratio ~ 80, consistent with ARDS from
   sepsis/surgical stress. Also a likely contribution of restrictive
   physiology from pain/distention in the abdomen given low lung volumes.
   - Monitor ABG
   - Supplemental O2 by facemask as needed
   - Low threshold for intubation if needed to maintain oxygenation
   - cont to diurese, goal neg 2L
   #) GNR bacteremia: The patient had low grade fever in last 24h,
   slightly improving. On Vanc/Zosyn with known GNR in blood without
   speciation.  He also continues to be tachycardic, but his hypotension
   has resolved.  Concern for pseudomonas, also anerobes.
   - d/c flagyl, if continues to do well can also d/c Cipro tomorrow
   #) Anemia: hct 22 this am, receiving 1^st unit PRBC, will get 2^nd
   unit, and lasix between units
   #) AMS- delirium related to zyprexa given overnight, and ativan the
   night prior. Will try pt on home dose xanax today, and haldol prn
   #) Tachycardia- not volume depleted, likely related to pain which could
   also be causing shallow breathing, and infection
   - cont abx, and pain control
   #) Hypotension:  resolved, off  levophed, not requiring significant
   fluids today.  Will continue to monitor via arterial line and
   rescuscitate as needed.
   #) s/p ileocectomy and revision:
   - continue dilaudid PCA
   - monitor Hct for signs of bleeding
   #) Anxiety:  on alprazolam as an outpatient and on surgical service.
   Currently strictly NPO.
   - lorazepam IV PRN
   ICU Care
   Nutrition: Ice Chips
   Glycemic Control:
   Lines:
   Arterial Line - [**2114-5-19**] 04:39 AM
   Multi Lumen - [**2114-5-19**] 04:40 AM
   18 Gauge - [**2114-5-19**] 04:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2114-05-23 06:55:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Progress Note
   24 Hour Events:
 ARTERIAL LINE - STOP [**2114-5-22**] 08:00 PM
 FEVER - 101.1
F - [**2114-5-22**] 04:00 PM
   - On 50% FiO2 ABG 129 PO2
   - Started outpatient celexa, xanax 0.25 mg q6hr
   - Sips only
   - ABx Cipro/Flagyl/Vanco
   - C. Diff negative X 2
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-21**] 08:19 PM
   Fluconazole - [**2114-5-22**] 10:30 AM
   Vancomycin - [**2114-5-22**] 07:54 PM
   Ciprofloxacin - [**2114-5-22**] 11:26 PM
   Metronidazole - [**2114-5-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2114-5-22**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2114-5-22**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-23**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.1
C (98.8
   HR: 81 (76 - 98) bpm
   BP: 115/66(77) {106/57(69) - 119/73(83)} mmHg
   RR: 23 (21 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  3,079 mL
                                                                    294 mL
   PO:
   TF:
   IVF:
                                                                  3,019 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  5,800 mL
                                                                  1,385 mL
   Urine:
                                                                  4,300 mL
                                                                    660 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    725 mL
   Drains:
   Balance:
                                                                 -2,721 mL
                                                                 -1,091 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.50/40/129/27/7
   PaO2 / FiO2: 258
   Physical Examination
   Gen: Resting comfortably with face mask in place, anxious when awake
   HEENT: No JVD
   Cards: S1 & S2 regular without murmur appreciated
   Pulm: High flow mask in place. Shallow rapid breathing, no accessory
   muscle use.  Shallow breaths
   Abd: Non-tender to palpation, round and firm, hypoactive bowel sounds
   Ext: 2+ DP, no edema
   Skin:  No sign of significant breakdown
   Neurologic: AAOx3, Anxious
   Labs / Radiology
   77 K/uL
   9.7 g/dL
   139 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   24 mg/dL
   111 mEq/L
   143 mEq/L
   27.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2114-5-21**]  06:01 AM
                             [**2114-5-21**]  12:13 PM
                             [**2114-5-21**]  05:52 PM
                             [**2114-5-21**]  07:56 PM
                             [**2114-5-21**]  10:48 PM
                             [**2114-5-22**]  12:58 AM
                             [**2114-5-22**]  04:43 AM
                             [**2114-5-22**]  07:11 AM
                             [**2114-5-22**]  10:06 PM
                             [**2114-5-23**]  04:24 AM
   WBC
   8.5
   8.3
   Hct
   25.9
   25
   28.6
   27.9
   Plt
   88
   77
   Cr
   1.0
   1.0
   0.9
   TCO2
   22
   30
   31
   34
   30
   32
   Glucose
   111
   118
   139
   Other labs: PT / PTT / INR:12.2/32.2/1.0, ALT / AST:25/51, Alk Phos / T
   Bili:55/0.8, Differential-Neuts:86.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:0.0 %, Fibrinogen:1104 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.1 g/dL, LDH:185 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   62M s/p ileocecectomy for cecal sessile polyp c/b thermal injury, s/p
   ex-lap and repair, with continued fever, tachycardia, tachypnea and
   hypoxia found to have GNR bacteremia.
   # Increased oxygen requirement:  Effusions secondary to ARDS from
   sepsis/surgical stress. In addition, poor oxygenation secondary to
   restrictive physiology from pain/distention in the abdomen given low
   lung volumes. Improving.
   - Supplemental O2 by facemask as needed
   - Continue to diurese, goal neg 2L (received 20 mg IV Lasix this am, is
   auto-diuresising)
   - CXR am daily
   # Fever/increasing WBC: Still w fevers, hemodynamically stable.
   Currently being treated for GNR bacteremia with Flagyl/Vanco/Cipro IV.
   Patient with new diarrhea, concerned for C. Diff Due to history of
   ileocecectomy concern for abscess.
   - Continue Flagyl/Vanc/Cipro IV
   - stool studies X 3 to eval for C. Diff (2 sets negative)
   - f/u blood cultures
   # Anemia: HCT 22 to 28.6 this am following 2 Units pRBC
   # Anxiety: Started home dose Celexa (every other day). Anxiety improved
   overnight with Xanax (unclear dose - daughter says rarely ever uses
   xanax, wife says he uses xanax q6 every day ).
   - Contact pharmacy for home medication doses
   - For now, continue Celexa 10 mg every other day, small dose xanax
   # s/p ileocectomy and revision:  No longer requires dilaudid PCA.
   - clears today, discuss with surgery time course over advancement
   # Thrombocytopenia: Unclear etiology. Today 77, range from 88-166.
   Started to decrease Day 2 hospital course therefore unlikely HIT. Most
   likely secondary to sepsis.
   - Continue to monitor
   ICU Care
   Lines:
   Multi Lumen - [**2114-5-19**] 04:40 AM
   18 Gauge - [**2114-5-19**] 04:41 AM
   Nutrition: Sips only
   Glycemic Control:  No insulin sliding scale
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer: Famotidine 20 mg IV Q12H
 switch to po
   Communication:  Comments: Wife, daughter, patient
   [**Name2 (NI) 36**] status:  Full Code
   Disposition: Pending above
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam.  Agree
   with assessment and plan as outlined during multidisciplinary rounds.
   He feels somewhat better with less pain. Still c/o breat
stopping
   he tries to inspire. Remains febrile. Diarrhea seems to be stopping
   81     115/86    24
   Chest bronchial BS bilat
   Abd incision clean mild tenderness
   WBC 8.3
   He is still febrile but BP has stabilized and WBC is normalizing. Has
   extensive atelectasis
 presumably due to inflammatory response at
   surgery.  Oxygenation is stable. No sputum
 will watch closely for
   pneumonia.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2114-5-23**] 18:53 ------

2114-05-24 07:05:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 7972**] NOTE
   24 Hour Events:
   - OOB in PM
   - tolerating clears
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2114-5-21**] 08:19 PM
   Fluconazole - [**2114-5-23**] 10:38 AM
   Ciprofloxacin - [**2114-5-23**] 11:50 AM
   Metronidazole - [**2114-5-23**] 03:58 PM
   Vancomycin - [**2114-5-23**] 08:46 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2114-5-23**] 08:42 AM
   Furosemide (Lasix) - [**2114-5-23**] 09:04 AM
   Heparin Sodium (Prophylaxis) - [**2114-5-23**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2114-5-24**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 89 (76 - 99) bpm
   BP: 121/68(79) {98/56(70) - 136/79(88)} mmHg
   RR: 29 (21 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,840 mL
                                                                     70 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                  1,480 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  6,225 mL
                                                                  1,555 mL
   Urine:
                                                                  3,900 mL
                                                                    855 mL
   NG:
   Stool:
                                                                    725 mL
   Drains:
   Balance:
                                                                 -4,385 mL
                                                                 -1,485 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Gen: Resting comfortably with face mask in place, anxious when awake
   HEENT: No JVD
   Cards: S1 & S2 regular without murmur appreciated
   Pulm: High flow mask in place. Shallow rapid breathing, no accessory
   muscle use.  Shallow breaths
   Abd: Non-tender to palpation, round and firm, hypoactive bowel sounds
   Ext: 2+ DP, no edema
   Skin:  No sign of significant breakdown
   Neurologic: AAOx3, Anxious
   Labs / Radiology
   108 K/uL
   10.0 g/dL
   135 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   23 mg/dL
   107 mEq/L
   141 mEq/L
   28.1 %
   10.8 K/uL
        [image002.jpg]
                             [**2114-5-21**]  12:13 PM
                             [**2114-5-21**]  05:52 PM
                             [**2114-5-21**]  07:56 PM
                             [**2114-5-21**]  10:48 PM
                             [**2114-5-22**]  12:58 AM
                             [**2114-5-22**]  04:43 AM
                             [**2114-5-22**]  07:11 AM
                             [**2114-5-22**]  10:06 PM
                             [**2114-5-23**]  04:24 AM
                             [**2114-5-24**]  03:32 AM
   WBC
   8.5
   8.3
   10.8
   Hct
   25.9
   25
   28.6
   27.9
   28.1
   Plt
   88
   77
   108
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   30
   31
   34
   30
   32
   Glucose
   111
   118
   139
   135
   Other labs: PT / PTT / INR:14.0/30.4/1.2, ALT / AST:25/51, Alk Phos / T
   Bili:55/0.8, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:1104 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.1 g/dL, LDH:185 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 SHOCK, SEPTIC
 ANXIETY
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   s/p ileocectomy
   Assessment and Plan
   62M s/p ileocecectomy for cecal sessile polyp c/b thermal injury, s/p
   ex-lap and repair, with continued fever, tachycardia, tachypnea and
   hypoxia found to have GNR bacteremia.
   # Increased oxygen requirement:  Effusions secondary to ARDS from
   sepsis/surgical stress. In addition, poor oxygenation secondary to
   restrictive physiology from pain/distention in the abdomen given low
   lung volumes. Improving.
   - Supplemental O2 by facemask as needed
   - Continue to diurese, goal neg 2L (received 20 mg IV Lasix this am, is
   auto-diuresising)
   - CXR am daily
   # Fever/increasing WBC: Still w fevers, hemodynamically stable.
   Currently being treated for GNR bacteremia with Flagyl/Vanco/Cipro IV.
   Patient with new diarrhea, concerned for C. Diff Due to history of
   ileocecectomy concern for abscess.
   - Continue Flagyl/Vanc/Cipro IV
   - stool studies X 3 to eval for C. Diff (2 sets negative)
   - f/u blood cultures
   # Anemia: HCT 22 to 28.6 this am following 2 Units pRBC
   # Anxiety: Started home dose Celexa (every other day). Anxiety improved
   overnight with Xanax (unclear dose - daughter says rarely ever uses
   xanax, wife says he uses xanax q6 every day ).
   - Contact pharmacy for home medication doses
   - For now, continue Celexa 10 mg every other day, small dose xanax
   # s/p ileocectomy and revision:  No longer requires dilaudid PCA.
   - clears today, discuss with surgery time course over advancement
   # Thrombocytopenia: Unclear etiology. Today 77, range from 88-166.
   Started to decrease Day 2 hospital course therefore unlikely HIT. Most
   likely secondary to sepsis.
   - Continue to monitor
   ICU Care
   Lines:
   Multi Lumen - [**2114-5-19**] 04:40 AM
   18 Gauge - [**2114-5-19**] 04:41 AM
   Nutrition: Clears
   Glycemic Control:  No insulin sliding scale
   Prophylaxis:
   DVT:  Heparin SQ
   Stress ulcer: Famotidine 20 mg po Q12H
   Communication:  Comments: Wife, daughter, patient
   [**Name2 (NI) 36**] status:  Full Code
   Disposition: Pending above